US07138413B1
α-(4-Acetylphenoxy)-α′-(4-methylpiperidino)p-xylol
α,α′-Dibromo-para-xylene (30 mmol), 4-hydroxyacetophenone (20 mmol), and potassium carbonate (50 mmol) were refluxed in 50 ml of acetone for 12 hours. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel (eluent: methylene chloride/petroleum ether/methanol (60/38/2)). The product (2 mmol), 4-methylpiperidine (6 mmol), potassium carbonate (8 mmol), and catalytic amounts of potassium iodide were refluxed in acetone for 12 hours. The solvent was evaporated. The residue was washed with water and extracted with ethyl acetate. The solvent was removed under reduced pressure. The product was crystallized with oxalic acid from diethyl ether/ethanol.

reactant | α,α′-Dibromo-para-xylene | 30 mmol | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | 4-hydroxyacetophenone | 20 mmol | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | potassium carbonate | 50 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylpiperidine | 6 mmol | CC1CCNCC1 | C6H13N
reactant | potassium carbonate | 8 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | α-(4-Acetylphenoxy)-α′-(4-methylpiperidino)p-xylol | C(C)(=O)C1=CC=C(OCC2=CC=C(C=C2)CN2CCC(CC2)C)C=C1 | C22H27NO2
